US09193745B2
Synthesis of 2-(6-isopropyldibenzo[b,d]furan-4-yl)-4-(prop-1-en-2-yl)pyridine:
4-chloro-2-(6-isopropyldibenzo[b,d]furan-4-yl)pyridine (10.5 g, 32.6 mmol) and potassium phosphate (22.54 g, 98 mmol) were dissolved in 500 mL of toluene and 50 mL of water. The reaction was purged with nitrogen for 20 minutes and then 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (6.13 mL, 32.6 mmol), Pd2(dba)3 (0.598 g, 0.653 mmol) and dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (1.072 g, 2.61 mmol) were added. The reaction was refluxed for 18 hours. After cooling the reaction to room temperature, 100 mL of water was added to the reaction mixture. The aqueous layer was extracted twice with 100 mL of ethyl acetate. The organic layer was passed through a plug of silica gel, eluting with DCM. After evaporation of the solvent, the crude product was subjected to column chromatography (SiO2, 3% ethyl acetate in hexane to 5% ethyl acetate in hexane, v/v) to yield 6.3 g (60.1%) of pure product.

reactant | 4-chloro-2-(6-isopropyldibenzo[b,d]furan-4-yl)pyridine | 32.6 mmol, 10.5 g | ClC1=CC(=NC=C1)C1=CC=CC2=C1OC1=C2C=CC=C1C(C)C | C20H16ClNO
reactant | potassium phosphate | 98 mmol, 22.54 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 32.6 mmol, 6.13 mL | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 2.61 mmol, 1.072 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd2(dba)3 | 0.653 mmol, 0.598 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 100 mL | O | H2O
product | 2-(6-isopropyldibenzo[b,d]furan-4-yl)-4-(prop-1-en-2-yl)pyridine | 6.3 g, 60.1% | C(C)(C)C1=CC=CC=2C3=C(OC21)C(=CC=C3)C3=NC=CC(=C3)C(=C)C | C23H21NO
